USRE039590E1
Preparation of 3-[4-chloro-2-methoxyphenyl]-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (Compound no. 1-31)
A mixture of 3-(2-amino-4-chloro-6-fluoro-3-methoxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione (0.5 g, 1.4 mmol) and dimethylformamide dimethylacetal (0.8 g, 7 mmol) was refluxed for 4 hr under a blanket of nitrogen. Excess reagent was removed in vacuo and product extracted with ether. Solvent was removed to afford a residue which was chromatographed on silica gel. Elution of the column with hexane-ethyl acetate (6:4) afforded the title compound (0.22 g).

reactant | 3-(2-amino-4-chloro-6-fluoro-3-methoxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | 1.4 mmol, 0.5 g | NC1=C(C(=CC(=C1OC)Cl)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C13H10ClF4N3O3
reactant | dimethylformamide dimethylacetal | 7 mmol, 0.8 g | COC(N(C)C)OC | C5H13NO2
product | 3-[4-chloro-2-methoxyphenyl]-1-methyl-6-trifluoromethyl-2,4(1H, 3H)-pyrimidinedione | 0.22 g | ClC1=CC(=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)OC | C13H10ClF3N2O3
